US07074798B2
a) 7-Benzyl-8-chloro-3-methyl-3,7-dihydropurine-2,6-dione
8-Chloro-3-methyl-3,7-dihydropurine-2,6-dione (200 mg) and potassium carbonate (152 mg) were suspended in N,N-dimethylformamide (10 ml), and benzyl bromide was added dropwise thereto while cooling on ice. The reaction mixture was left standing till reaching room temperature, and was stirred at room temperature for 13 hours. The resulting white suspension was diluted with ethyl acetate and water, and filtered to give 133 mg of the title compound.

reactant | 8-Chloro-3-methyl-3,7-dihydropurine-2,6-dione | 200 mg | ClC1=NC=2N(C(NC(C2N1)=O)=O)C | C6H5ClN4O2
reactant | potassium carbonate | 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-Benzyl-8-chloro-3-methyl-3,7-dihydropurine-2,6-dione | 133 mg | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)C)Cl | C13H11ClN4O2
